US06509328B1
3-(7-Iodo-4-oxo-4,5-dihydro-3H-benzo[b][1,4]diazepin-2-yl)-benzonitrile
Prepared from {2-[3-(3-cyano-phenyl)-3-oxo-propionylamino]-4-iodo-phenyl}-carbamic acid tert.-butyl ester (Example K1) (1.15 g, 2.3 mmol) by treatment with TFA in CH2Cl2 according to the general procedure M. Obtained as a yellow solid (880 mg).

reactant | {2-[3-(3-cyano-phenyl)-3-oxo-propionylamino]-4-iodo-phenyl}-carbamic acid tert.-butyl ester | 2.3 mmol, 1.15 g | C(C)(C)(C)OC(NC1=C(C=C(C=C1)I)NC(CC(=O)C1=CC(=CC=C1)C#N)=O)=O | C21H20IN3O4
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 3-(7-Iodo-4-oxo-4,5-dihydro-3H-benzo[b][1,4]diazepin-2-yl)-benzonitrile | 880 mg | IC1=CC2=C(N=C(CC(N2)=O)C=2C=C(C#N)C=CC2)C=C1 | C16H10IN3O
